US06921759B2
Step 6: Preparation of 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-N-[2-(methylsulfonyl)-benzyl]-1,6-naphthyridine-7-carboxamide
5-(1,1-dioxido-1,2-thiazinan-2-yl)-7-({[2-(methylsulfonyl)benzyl]amino}carbonyl)-1,6-naphthyridin-8-yl-4-methylbenzenesulfonate (220 mg, 0.34 mmol) was dissolved in methanol (10 mL) and NaOMe (55 mg, 1.02 mmol) was added. The reaction was stirred overnight at room temperature. The crude reaction was diluted with water (10 mL) and extracted with CH2Cl2 (2×10 mL). The organic phase was dried (MgSO4), filtered and concentrated in vacuo to afford a yellow oily solid. The material was suspended in methanol and a yellow precipitate fell out of solution. Washing with fresh methanol (2×10 mL) gave the desired product as an off-white solid.

reactant | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-7-({[2-(methylsulfonyl)benzyl]amino}carbonyl)-1,6-naphthyridin-8-yl-4-methylbenzenesulfonate | 0.34 mmol, 220 mg | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=CC=C1)S(=O)(=O)C)C1=C(C=CC(=C1)C)S(=O)(=O)[O-])=O
reactant | NaOMe | 1.02 mmol, 55 mg | C[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-N-[2-(methylsulfonyl)-benzyl]-1,6-naphthyridine-7-carboxamide | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=CC=C1)S(=O)(=O)C)O)=O | C21H22N4O6S2
